US07655666B2
A solution of 4-(1-fluoro-ethyl)-2-nitro-benzoic acid methyl ester (0.6 g, 2.64 mmol) in MeOH (15 mL) was treated with Nickel-raney in EtOH (254 mL) and the mixture was stirred at r.t. for 3 h under H2 (0.1 bar). The mixture was then filtered and concentrated in vacuo to give 2-amino-4-(1-fluoro-ethyl)-benzoic acid methyl ester (334 g, 1.69 mmol, 93%) as a yellow oil. ESI-MS: m/z 198 [M+H]+, rt 4.86 min.

reactant | 4-(1-fluoro-ethyl)-2-nitro-benzoic acid methyl ester | 2.64 mmol, 0.6 g | COC(C1=C(C=C(C=C1)C(C)F)[N+](=O)[O-])=O | C10H10FNO4
solvent | MeOH | 15 mL | CO | CH4O
solvent | EtOH | 254 mL | CCO | C2H6O
catalyst | Nickel | [Ni] | Ni
product | 2-amino-4-(1-fluoro-ethyl)-benzoic acid methyl ester | 1.69 mmol, 334 g, 93% | COC(C1=C(C=C(C=C1)C(C)F)N)=O | C10H12FNO2
